US05496834
In tetrahydrofuran (10 ml) was suspended (2S,3S)-2-acetoxy-3-[[N-benzyloxycarbonyl-(L)-leucyl]amino]tetrahydrofuran (0.8 g) and following addition of p-toluenesulfonic acid (0.02 g) and ethyl glycolate (5 ml), the mixture was stirred at room temperature for 5 hours. The reaction mixture was then concentrated under reduced pressure and the residue was chromatographed on a silica gel column, elution being carried out with ethyl acetate-hexane (1:1, v/v). From the eluate was obtained ethyl [(3S)-3-[[N-benzyloxycarbonyl-(L)-leucyl]amino]tetrahydrofuran-2-yl]oxyacetate (0.6 g) as an oil. This oil was dissolved in methanol (5 ml) followed by addition of potassium carbonate (0.1 g)-water (5 ml) and the mixture was stirred at room temperature for 3 hours. This reaction mixture was neutralized with 1N--HCl and extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried ((MgSO4) and the solvent was distilled off. The residue was dissolved in ethanol (20 ml) and following addition of 1N--NaOH (0.6 ml), the mixture was stirred at room temperature for 30 minutes. The reaction mixture was then concentrated under reduced pressure to provide sodium [(3S)-3-[[N-benzyloxycarbonyl-(L)-leucyl]amino]tetrahydrofuran-2-yl]oxyacetate (chemical formula below) (0.35 g, 41%). As recrystallized from methanol-ether, colorless powder, m.p. 125°-127° C., optical rotation [α]D +50.7° (c=0.33, dimethyl sulfoxide)

reactant | (2S,3S)-2-acetoxy-3-[[N-benzyloxycarbonyl-(L)-leucyl]amino]tetrahydrofuran | 0.8 g | C(C)(=O)O[C@@H]1OCC[C@@H]1NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(C)C)=O | C20H28N2O6
reactant | p-toluenesulfonic acid | 0.02 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethyl glycolate | 5 ml | C(CO)(=O)OCC | C4H8O3
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | ethyl [(3S)-3-[[N-benzyloxycarbonyl-(L)-leucyl]amino]tetrahydrofuran-2-yl]oxyacetate | 0.6 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H]1C(OCC1)OCC(=O)OCC | C22H32N2O7
